US06048550
1) Colloidal Dispersion of Dexniguldipine
Various other hydrophilic polymers were investigated for there use in producing dispersions of Dexniguldipine Hydrochloride. 0.1 mL of a solution containing 2 mg/mL Dexniguldipine Hydrochloride in 50% aqueous DMSO was added to 1 mL of HEPES-NS containing 10 mg of one of the following polymers: Chondroitin Sulfate A, Dextran Sulfate, polyacrylic acid sodium salt (MW 150,000), polyacrylic acid sodium salt (MW 2000) or Dextran (MW 70,000). A control group containing no polymer was also investigated. Each mixture was vortexed for 1 minute and allowed to sit for 24 hours at room temperature. After this time period the mixtures were votexed again for 15 minutes after which the quality and stability of the dispersions were visually evaluated. Stable dispersions were produced only in the mixtures that contained polyanions.

reactant | Dexniguldipine Hydrochloride | CC1=C([C@H](C(=C(N1)C)C(=O)OCCCN2CCC(CC2)(C3=CC=CC=C3)C4=CC=CC=C4)C5=CC(=CC=C5)[N+](=O)[O-])C(=O)OC.Cl
reactant | HEPES | 1 mL | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | Chondroitin Sulfate A | CC(=O)N[C@@H]1[C@H]([C@H]([C@H](O[C@H]1O)OS(=O)(=O)O)O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C13H21NO15S
reactant | polyacrylic acid sodium salt | CCC(CC(CC(CC(C)C(=O)[O-])C(=O)[O-])C(=O)[O-])C(=O)[O-].[Na+].[Na+].[Na+].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | Dexniguldipine | CC1=C([C@H](C(=C(N1)C)C(=O)OCCCN2CCC(CC2)(C=3C=CC=CC3)C=4C=CC=CC4)C=5C=CC=C(C5)[N+](=O)[O-])C(=O)OC | C36H39N3O6
